* Characterization Netlist: Bench Ref
.include "tl072.sub"
.model 1N4148 D(is=2.52n rs=0.568 n=1.752 cjo=4p m=0.4 tt=20n)
V_in 1 0 dc 0 ac 1 sin(0 0.1 1k)
V_cc 3 0 dc 9.00
V_ee 4 0 dc -9.00
R1    1 10 10k
R2    10 20 11k
C1    10 2 10pF
C2    20 0 15.9nF
X1    20 2 3 4 2 TL072
R4    2 20 270k
D1    1 20 1N4148
C3    2 1 560nF
C4    2 20 150nF
C_stray_8000 1 0 22.00pF
C_stray_8001 2 0 22.00pF
C_stray_8002 10 0 22.00pF
C_stray_8003 20 0 22.00pF
.control
op
print allv
ac dec 50 10 100k
wrdata ac_out.txt v(2)
tran 10us 5ms
wrdata tran_small.txt v(2) v(1)
alter @v_in[sin] = [ 0 2.0 1k ]
tran 10us 5ms
wrdata tran_large.txt v(2) v(1)
alter @v_in[sin] = [ 0 0 0 ]
tran 20us 10ms
wrdata tran_zero.txt v(2)
quit
.endc
.end
