* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CONNECTIONS:
* 1: NON-INVERTING INPUT
* 2: INVERTING INPUT
* 3: POSITIVE POWER SUPPLY
* 4: NEGATIVE POWER SUPPLY
* 5: OUTPUT
*
.SUBCKT TL072 1 2 3 4 5
  C1 11 12 3.498E-12
  C2 6 7 12.00E-12
  DC 5 53 DX
  DE 54 5 DX
  DLP 90 91 DX
  DLN 92 90 DX
  DP 4 3 DX
  EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB 7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA 6 0 11 12 2.828E-4
  GCM 0 6 10 99 8.944E-9
  ISS 3 10 DC 1.072E-5
  HLIM 90 0 VLIM 1K
  J1 11 2 10 JX
  J2 12 1 10 JX
  R2 6 9 100.0E3
  RD1 4 11 3.536E3
  RD2 4 12 3.536E3
  RO1 8 5 150
  RO2 7 99 150
  RP 3 4 2.143E3
  VB 9 0 DC 0
  VC 3 53 DC 2.200
  VE 54 4 DC 2.200
  VLIM 7 8 DC 0
  VLP 91 0 DC 25
  VLN 0 92 DC 25
  .MODEL DX D(IS=800.0E-18)
  .MODEL JX PJF(BETA=9.428E-4 BETATCE=-.5 VTO=-1.0 VTOTC=-2.5E-3)
.ENDS
